US07425568B2
1-Methyl-3-[6-(2-phenylchroman-6-yloxy)pyridin-3-yl]thiourea
Solution of 6-(2-phenylchroman-6-yloxy)pyridin-3-ylamine (150 mg) and methyl isothiocyanate (94 μl) in ethanol was refluxed for 10 hours. After cooling solvents were evaporated. Crude product of 1-methyl-3-[6-(2-phenylchroman-6-yloxy)pyridin-3-yl]thiourea was purified by column chromatography (5% methanol in dichloromethane). 1H NMR (400 MHz, d6-DMSO) δ: 9.45 (bs, 1H), 8.02 (d, 1H, J 2.7 Hz), 7.81 (dd, 1H, J 2.7, 8.8 Hz), 7.70 (bs, 1H), 7.47-7.38 (m, 4H), 7.36-7.32 (m, 1H), 6.94-6.86 (m, 4H), 5.12 (dd, 1H J 2.3, 10.1 Hz), 2.98-2.93 (m, 1H), 2.90 (d, 3H, J 4.3 Hz), 2.76-2.71 (m, 1H), 2.19-2.15 (m, 1H), 2.15-1.99 (m, 1H).

reactant | 6-(2-phenylchroman-6-yloxy)pyridin-3-ylamine | 150 mg | C1(=CC=CC=C1)C1OC2=CC=C(C=C2CC1)OC1=CC=C(C=N1)N | C20H18N2O2
reactant | methyl isothiocyanate | 94 μl | CN=C=S | C2H3NS
solvent | ethanol | C(C)O | C2H6O
product | 1-Methyl-3-[6-(2-phenylchroman-6-yloxy)pyridin-3-yl]thiourea | CNC(=S)NC=1C=NC(=CC1)OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1 | C22H21N3O2S
